US09102591B2
2-Cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine
A solution of Cyclopropyl-(6-trifluoromethyl-pyridin-3-yl)-acetonitrile (93 mg, 0.41 mmol) in THF (2.8 mL) in a 5 mL microwave vial was treated with borane-methyl sulfide complex (0.51 mL, 5.4 mmol). The reaction vessel was capped and the mixture was heated in the microwave reactor for 20 mins at 100° C. The reaction mixture was concentrated in vacuo to yield the crude title compound which was used without further purification (95 mg, purity: 73%, yield: 73%). LCMS (MH+): m/z=231.1, tR (minutes, Method D)=0.40

reactant | Cyclopropyl-(6-trifluoromethyl-pyridin-3-yl)-acetonitrile | 0.41 mmol, 93 mg | C1(CC1)C(C#N)C=1C=NC(=CC1)C(F)(F)F | C11H9F3N2
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | 2-Cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine | yield: 73% | C1(CC1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C11H13F3N2
